US07220856B2
Preparation of 7-Chloro-4-[4-[cyanimino(ethylamino)methyl]piperazin-1-yl]quinoline
7-Chloro-4-[4-(cyanimino(phenoxy)methyl)piperazin-1-yl]quinoline (0.39 g, 1.0 mmol), ethylamine hydrochloride (1.68 g, 20.6 mmol), and diaza[2.2.2]bicyclooctane (2.24 g, 20.0 mmol) in isopropanol (20 mL) are heated in a sealed tube for 4 h at 110° C. The reaction mixture is concentrated, and the residue is suspended in EtOAc. Washing with water, drying (MgSO4), and removing the solvent leads to a colorless solid, which is washed with hot ether to yield the title product.

reactant | 7-Chloro-4-[4-(cyanimino(phenoxy)methyl)piperazin-1-yl]quinoline | 1.0 mmol, 0.39 g | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(OC1=CC=CC=C1)=NC#N | C21H18ClN5O
reactant | ethylamine hydrochloride | 20.6 mmol, 1.68 g | Cl.C(C)N
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
product | 7-Chloro-4-[4-[cyanimino(ethylamino)methyl]piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(NCC)=NC#N | C17H19ClN6
